US08357679B2
A: (4-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)(3-nitrophenyl)methanone
To a stirred mixture of 1,1,1,3,3,3-hexafluoro-2-(4-(piperazin-1-ylmethyl)phenyl)-propan-2-ol (3.21 mmol, 1.1 g) and triethylamine (3.21 mmol, 0.448 mL, 0.325 g) in dichloromethane at 0° C. was added 3-nitrobenzoyl chloride (3.21 mmol, 0.596 g). The reaction was stirred at 0° C. for 2 hours then was allowed to warm to room temperature and stir overnight. The reaction was purified by chromatography on silica (eluting dichloromethane to dichloromethane/methanol) and SCX column chromatography to give the title compound (850 mg). MS (ESI) m/z 492.3 [M+H]+

reactant | 1,1,1,3,3,3-hexafluoro-2-(4-(piperazin-1-ylmethyl)phenyl)-propan-2-ol | 3.21 mmol, 1.1 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CCNCC1)(F)F | C14H16F6N2O
reactant | triethylamine | 3.21 mmol, 0.448 mL, 0.325 g | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzoyl chloride | 3.21 mmol, 0.596 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)(3-nitrophenyl)methanone | 850 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCN(CC2)C(=O)C2=CC(=CC=C2)[N+](=O)[O-])C=C1)(F)F | C21H19F6N3O4
